US05905074
To 342.5 mg (5.24 mMol) of Zn powder are added 1.57 ml of tetrahydrofuran/pyridine 2/1. The reaction mixture is stirred under Argon, 247.2 mg (1.04 mMol) of NiCl2.6H2O and then 472.2 mg (4.72 mMol) of ethylacrylate are added. The reaction mixture is heated at 65° for 30 minutes, cooled to room temperature and 947 mg (2.10 mMol) of (1S,4aR,5R,8aR)-tert-Butyl[5-[(S)-2-iodo-1-methyl-ethyl]-4a-methyl-decahydronaphtalen-1-yloxy]-dimethylsilane dissolved in 1.57 ml of tetrahydrofuran pyridine 1/2 are added and the reaction mixture kept overnight at room temperature. Filtration through Speedex and washing of the filter cake with ethylacetate is followed by evaporation in vacuo to 1/3 of the volume. The solution is diluted with ethylacetate and the organic phase is washed 4 times with a disodium ethylene diamine tetraacetate dihydrate (EDTA) solution (8 g of EDTA and 8 g of NaHCO3 in 100 ml water) and twice with brine. The organic phase is dried over Na2SO4, filtered and evaporated in vacuo. The residue is chromatographed over 100 g of silicagel with hexane/ethylacetate 98/2 to yield 269 mg of starting material and 390 mg (44%) of (R)-5-[(1R,4aR,5S,8aR)-5-(tert-Butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphtalen-1-yl)-hexanoic acid ethyl ester as an amorphous product.

reactant | ethylacrylate | 4.72 mMol, 472.2 mg | C(C)OC(C=C)=O | C5H8O2
reactant | (1S,4aR,5R,8aR)-tert-Butyl[5-[(S)-2-iodo-1-methyl-ethyl]-4a-methyl-decahydronaphtalen-1-yloxy]-dimethylsilane | 2.10 mMol, 947 mg | C(C)(C)(C)[Si](C)(C)O[C@H]1CCC[C@@]2([C@H](CCC[C@@H]12)[C@@H](CI)C)C | C20H39IOSi
solvent | tetrahydrofuran pyridine | 1.57 ml | N1=CC=CC=C1.O1CCCC1
catalyst | Zn | 5.24 mMol, 342.5 mg | [Zn] | Zn
solvent | tetrahydrofuran pyridine | 1.57 ml | O1CCCC1.N1=CC=CC=C1
product | (R)-5-[(1R,4aR,5S,8aR)-5-(tert-Butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphtalen-1-yl)-hexanoic acid ethyl ester | 390 mg, 44% | C(C)OC(CCC[C@@H](C)[C@H]1CCC[C@H]2[C@H](CCC[C@]12C)O[Si](C)(C)C(C)(C)C)=O | C25H48O3Si
